US09108921B2
Step A: 6-chloroquinolin-2-amine (42B)
A mixture of 2,6-dichloroquinoline (500 mg, 2.5 mmol), acetamide (3 g, 50.8 mmol) and K2CO3 (1.75 g, 12.7 mmol) in a round bottom flask was stirred at 200° C. for 1.5 hours until TLC indicated that 2,6-dichloroquinoline was consumed. The resulting mixture was cooled to room temperature, and was partitioned between dichloromethane and H2O, the organic layer was dried over anhydrous Na2SO4, concentrated, and the residue was purified by a standard method to give 440 mg of the title compound. LCMS (m/z): 179.7 (M+1)+

reactant | 2,6-dichloroquinoline | 2.5 mmol, 500 mg | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | acetamide | 50.8 mmol, 3 g | C(C)(=O)N | C2H5NO
reactant | K2CO3 | 12.7 mmol, 1.75 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-chloroquinolin-2-amine | 440 mg | ClC=1C=C2C=CC(=NC2=CC1)N | C9H7ClN2
